US07186714B2
b) 6-Bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carbaldehyde
6-Bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine (7 g, 0.024 moles) was treated with phosphorous oxychloride (3.4 mL, 36 mmol) in N,N-dimethylformamide in a similar manner as described in Example 2 to give, after recrystallization from acetonitrile, 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carbaldehyde (6.12 g, 80%) as a white solid. 1H NMR (CDCl3): δ 10.08 (s, 1H), 9.88 (s, 1H), 7.86 (q, 2H), 7.72 (m, 2H), 7.28 (t, 2H); 19F NMR (CDCl3) δ −110.6; MS m/z 320 (M+1).

reactant | 6-Bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine | 0.024 moles, 7 g | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)F | C13H8BrFN2
reactant | phosphorous oxychloride | 36 mmol, 3.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-Bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carbaldehyde | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C=O | C14H8BrFN2O
